US04980492
A 3.0 M solution of phenylmagnesium bromide in diethyl ether (50 ml, 0.15 mole) was distilled under vacuum with slow heating from 20° to 80° C. Benzene (40 ml) was added, followed by n-heptane (300 ml). The resulting mixture was stirred and a solution of diphenylsulfoxide 10.1 g, (0.050 mol), in benzene (60 ml) was added during 1 hour at 80° C. The mixture was stirred for 3 hours and cooled to room temperature. An 25% aqueous hydrobromic acid solution (180 ml) was slowly added to the reaction mixture (exotherm-). The layers were separated and the organic layer was extracted twice with 5% aqueous hydrobromic acid (2 x 30 ml). The combined aqueous extracts were extracted three times with dichloromethane (3×250 ml). The dichloromethane extracts were dried over magnesium sulfate, filtered and the organic solvent evaporated to leave triphenylsulfonium bromide (10.2 g, 60%), which was crystallized from dichloromethane/diethyl ether. M.p. 285-7 ° C.

reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | diethyl ether | 0.15 mole, 50 ml | C(C)OCC | C4H10O
reactant | diphenylsulfoxide | 0.050 mol, 10.1 g | C1(=CC=CC=C1)S(=O)C1=CC=CC=C1 | C12H10OS
reactant | hydrobromic acid | 180 ml | Br | BrH
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
solvent | Benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | n-heptane | 300 ml | CCCCCCC | C7H16
product | triphenylsulfonium bromide | 10.2 g, 60% | [Br-].C1(=CC=CC=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C18H15S.BrH/c1-4-10-16(11-5-1)19(17-12-6-2-7-13-17)18-14-8-3-9-15-18;/h1-15H;1H/q+1;/p-1
